US06713474B2
3-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclopentan-1-one
A mixture of 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclopentan-1-ol (100 mg), activated manganese dioxide (500 mg) and dichloromethane (100 ml) was stirred at ambient temperature for 18 hours to give, after filtration, a solution of 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclopentan-1-one in dichloromethane which was used in the next Example.

reactant | 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclopentan-1-ol | 100 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CC(CC2)O | C23H22N4O2
catalyst | manganese dioxide | 500 mg | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclopentan-1-one | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CC(CC2)=O | C23H20N4O2
